US08492554B2
Intermediate 162: ethyl 2-[(diphenylmethylidene)amino]-4-(tetrahydro-4H-pyran-4-ylidene)butanoate
To a solution of ethyl N-(diphenylmethylidene)glycinate (5.29 g, 19.8 mmol), benzyltriethylammonium chloride (0.41 g, 1.8 mmol) and cesium hydroxide monohydrate (4.54 g, 27.0 mmol) in anhydrous dichloromethane (50 mL) was added 4-(2-bromoethylidene)tetrahydro-2H-pyran (3.44 g, 18.0 mmol) as a solution in anhydrous dichloromethane (40 mL) and the reaction stirred at room temperature for 72 h under nitrogen. The reaction was partitioned between dichloromethane and water and the aqueous layer was extracted with dichloromethane. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 5-40% hexanes/EtOAc to afford the title compound as a clear oil in quantitative yield.

reactant | ethyl N-(diphenylmethylidene)glycinate | 19.8 mmol, 5.29 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | cesium hydroxide monohydrate | 27.0 mmol, 4.54 g | O.[OH-].[Cs+]
reactant | 4-(2-bromoethylidene)tetrahydro-2H-pyran | 18.0 mmol, 3.44 g | BrCC=C1CCOCC1 | C7H11BrO
catalyst | benzyltriethylammonium chloride | 1.8 mmol, 0.41 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | ethyl 2-[(diphenylmethylidene)amino]-4-(tetrahydro-4H-pyran-4-ylidene)butanoate | quantitative yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)CC=C1CCOCC1 | C24H27NO3
